US04745233
4.63 g (0.03 mole) titanium trichloride are suspended under nitrogen in 150 cm3 anhydrous dimethoxyethane (glyme) and 0.38 g (0.01 mole) LiAlH4 rapidly added to the resulting suspension while cooling with ice. The dark suspension thus obtained is stirred for 10 minutes. 1.84 g (0.01 mole) 2-(2-fluoro-4-methoxyphenyl)-2-propanol dissolved in 10 cm3 anhydrous dimethoxyethane are then added dropwise with stirring and the mixture heated under reflux for 16 hours. After cooling, the reaction product is decomposed with 2N HCl, diluted with water and extracted with ether. The ether extracts are washed (NaHCO3, H2O) and dried over MgSO4. After removal of the ether, the 2,3-bis-(2-fluoro-4-methoxyphenyl)-2,3-dimethylbutane obtained is recrystallized from toluene/ligroin.

reactant | LiAlH4 | 0.01 mole, 0.38 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 2-(2-fluoro-4-methoxyphenyl)-2-propanol | 0.01 mole, 1.84 g | FC1=C(C=CC(=C1)OC)C(C)(C)O | C10H13FO2
reactant | HCl | 2N | Cl | ClH
solvent | dimethoxyethane | 150 cm3 | C(OC)COC | C4H10O2
solvent | dimethoxyethane | 10 cm3 | C(OC)COC | C4H10O2
solvent | water | O | H2O
catalyst | titanium trichloride | 0.03 mole, 4.63 g | [Cl-].[Cl-].[Cl-].[Ti+3]
product | 2,3-bis-(2-fluoro-4-methoxyphenyl)-2,3-dimethylbutane | FC1=C(C=CC(=C1)OC)C(C)(C(C)(C)C1=C(C=C(C=C1)OC)F)C | C20H24F2O2
